US04933355
5-{1-[2-(3-Benzylureido)thiazol-4-yl]-1-ethoxycarbonylmethylene}rhodanine-3-acetic acid dihydrate
Following a procedure similar to that described in Example 1, the desired compound was prepared from 1.67 g of ethyl 2-(3-benzylureido)thiazol-4-ylglyoxylate, 0.95 g of rhodanine-3-acetic acid, 0.5 g of ammonium chloride, 0.5 ml of 28% v/v aqueous ammonia and 25 ml of ethanol. The resulting product was a yellow powder having the following physical properties.

reactant | ethyl 2-(3-benzylureido)thiazol-4-ylglyoxylate | 1.67 g | C(C1=CC=CC=C1)NC(NC=1SC=C(N1)C(C(=O)OCC)=O)=O | C15H15N3O4S
reactant | rhodanine-3-acetic acid | 0.95 g | S1C(=S)N(C(=O)C1)CC(=O)O | C5H5NO3S2
reactant | ammonium chloride | 0.5 g | [Cl-].[NH4+]
reactant | ammonia | N | H3N
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 5-{1-[2-(3-Benzylureido)thiazol-4-yl]-1-ethoxycarbonylmethylene}rhodanine-3-acetic acid dihydrate | O.O.C(C1=CC=CC=C1)NC(NC=1SC=C(N1)C(C(=O)OCC)=C1C(N(C(S1)=S)CC(=O)O)=O)=O | InChI=1S/C20H18N4O6S3.2H2O/c1-2-30-17(28)14(15-16(27)24(9-13(25)26)20(31)33-15)12-10-32-19(22-12)23-18(29)21-8-11-6-4-3-5-7-11;;/h3-7,10H,2,8-9H2,1H3,(H,25,26)(H2,21,22,23,29);2*1H2
